US05952325
4-[(4-Amino-2-bromophenylthio)methyl]pyridine
4-[(2-Bromo-4-nitrophenylthio)methyl]pyridine (D14) (0.800 g, 2.56 mmol) was dissolved in ethanol (40 ml) and heated to 60° C. with stifling. A solution of tin (II) chloride (1.696 g, 8.96 mmol) in conc. HCl (8 ml) was then added dropwise. The reaction mixture was heated under reflux for 2 h, then allowed to cool, diluted with water (40 ml) and basified to pH14 by the addition of 10% sodium hydroxide. The reaction mixture was concentrated in vacuo and the aqueous residue was extracted with dichloromethane (2×70 ml). The combined organic layers were then dried (Na2SO4) and evaporated under reduced pressure to give the title compound as a brown oil, which was dried in vacuo (0.670 g, 93%).

reactant | 4-[(2-Bromo-4-nitrophenylthio)methyl]pyridine | 2.56 mmol, 0.800 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])SCC1=CC=NC=C1 | C12H9BrN2O2S
reactant | tin (II) chloride | 8.96 mmol, 1.696 g | [Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | HCl | 8 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 4-[(4-Amino-2-bromophenylthio)methyl]pyridine | NC1=CC(=C(C=C1)SCC1=CC=NC=C1)Br | C12H11BrN2S
